US06214873B1
(1) Synthesis of diethyl 2-acetamido-2-(2-phenylethyl)malonate
To a suspension of sodium hydride (50.6 g) in dimethylformamide (1500 ml) was dropwise added a solution of diethyl acetamidomalonate (250 g) in dimethylforamide (200 ml) under ice-cooling, and the mixture was stirred at room temperature for 30 minutes. 2-Phenylethyl bromide (156 ml) was dropwise added thereto and the resultant mixture was stirred for 7 hours at room temperature. The reaction mixture was poured into ice water (1500 ml) and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried over anhydrous magnesium sulfate and the solvent was distilled away. The obtained residue was crystallized from toluene to give the title compound (102 g) as white crystals, melting point 115-117° C.

reactant | sodium hydride | 50.6 g | [H-].[Na+]
reactant | diethyl acetamidomalonate | 250 g | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
reactant | 2-Phenylethyl bromide | 156 ml | C1(=CC=CC=C1)CCBr | C8H9Br
solvent | dimethylformamide | 1500 ml | CN(C=O)C | C3H7NO
solvent | dimethylforamide | 200 ml | CN(C=O)C | C3H7NO
product | diethyl 2-acetamido-2-(2-phenylethyl)malonate | 102 g | C(C)(=O)NC(C(=O)OCC)(C(=O)OCC)CCC1=CC=CC=C1 | C17H23NO5
